US08912188B2
To a solution of methyl 3-(2-methylpiperidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (520 mg, 1.73 mmol) in dichloromethane (60 ml) was added pyridine (690 mg, 8.72 mmol) followed by the addition of Tf2O (1.22 g, 4.32 mmol), and the resulting solution was stirred overnight at room temperature. The reaction was quenched by the addition of ice-water (200 ml) and extracted with dichloromethane (2×30 ml). The organic layers were combined, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (880 mg, crude).

reactant | methyl 3-(2-methylpiperidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 1.73 mmol, 520 mg | CC1N(CCCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O3
reactant | pyridine | 8.72 mmol, 690 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 4.32 mmol, 1.22 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | CC1N(CCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
